US06284748B1
A solution of N9-phenethyl-8-bromomethyladenine (1 mmol) in DMF was treated with a solution of diethyl hydroxymethylphosphonate sodium salt (1 mmol) in DMF at 25° C. for 1 h. Extraction and chromatography gave N9-phenethyl-8-diethylphosphonomethoxymethyladenine as a white solid. TLC: Rf=0.31,10% MeOH—CH2Cl2.

reactant | N9-phenethyl-8-bromomethyladenine | 1 mmol | C(CC1=CC=CC=C1)N1C2=NC=NC(=C2N=C1CBr)N | C14H14BrN5
reactant | diethyl hydroxymethylphosphonate sodium salt | 1 mmol | [Na].OCP(OCC)(OCC)=O
solvent | DMF | CN(C)C=O | C3H7NO
product | N9-phenethyl-8-diethylphosphonomethoxymethyladenine | C(CC1=CC=CC=C1)N1C2=NC=NC(=C2N=C1COCP(=O)(OCC)OCC)N | C19H26N5O4P
